US06518273B1
(S)-N-[2-(Methylamino)-1-oxo-3-phenylpropyl)glycine methyl ester
Trifluoroacetic acid (5 mL) was added to a solution of (S)-N-(2-{N-[(1,1-dimethylethoxy)carbonyl]methylamino}-1-oxo-3-phenylpropyl)glycine methyl ester (Description 32, 2.28 g, 6.5 mmol) in dichloromethane (50 mL) and the mixture was stirred at room temperature for 3.5 h. The solvent was evaporated under reduced pressure, then toluene was added and evaporated under reduced pressure. Aqueous sodium carbonate (10%, 100 mL) was added and the mixture was extracted with dichloromethane (2×100 mL). The combined organic fractions were dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with CH2Cl2/MeOH (95:5), to give the title compound as a colorless oil (1.59 g, 98%). 1H NMR (250 MHz, CDCl3) δ7.71 (1H, br s), 7.61-7.21 (5H, m), 4.15 (1H, dd, J 18.3, 6.1 Hz), 4.02 (1H, dd, J 18.3, 5.5 Hz), 3.76 (3H, s), 3.25 (2H, m), 2.69 (1H, dd, J 14.7, 10.9 Hz), 2.31 (3H, s), and 1.30 (1H, br s). m/z (ES+) 251 (M+1).

reactant | Trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | (S)-N-(2-{N-[(1,1-dimethylethoxy)carbonyl]methylamino}-1-oxo-3-phenylpropyl)glycine methyl ester | 6.5 mmol, 2.28 g | COC(CNC([C@H](CC1=CC=CC=C1)NCC(=O)OC(C)(C)C)=O)=O | C18H26N2O5
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (S)-N-[2-(Methylamino)-1-oxo-3-phenylpropyl)glycine methyl ester | 1.59 g, 98% | COC(CNC([C@H](CC1=CC=CC=C1)NC)=O)=O | C13H18N2O3
